US08278457B2
3,6-Dioxabicyclo[3.1.0]hexane (100 g, 1.16 mol), 4-bromophenol (241.1 g, 1.39 mol), cesium carbonate (492 g, 1.51 mol) and benzyltriethylammonium chloride (52.9 g, 0.23 mol) were suspended in dioxane (1 L) and heated at reflux for 18 hours. The reaction was cooled to room temperature and diluted with ethyl acetate, then washed with saturated aqueous sodium carbonate solution. The aqueous layer was extracted with ethyl acetate, and the combined organic portions were dried over sodium sulfate, filtered and concentrated in vacuo, to provide crude product, which solidified on standing. This was used without purification in the next step. Yield: 354 g, >100%, assumed quantitative. Material from a smaller-scale experiment carried out in similar fashion was purified by silica gel chromatography for characterization (Gradient: 10% to 35% ethyl acetate in heptane), to afford trans-4-(4-bromophenoxy)tetrahydrofuran-3-ol as a solid.

reactant | 3,6-Dioxabicyclo[3.1.0]hexane | 1.16 mol, 100 g | C12COCC2O1 | C4H6O2
reactant | 4-bromophenol | 1.39 mol, 241.1 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | cesium carbonate | 1.51 mol, 492 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | benzyltriethylammonium chloride | 0.23 mol, 52.9 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dioxane | 1 L | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-4-(4-bromophenoxy)tetrahydrofuran-3-ol | BrC1=CC=C(O[C@H]2[C@@H](COC2)O)C=C1 | C10H11BrO3
